US05051513
A mixture of 7.0 g (0.0356 mol) of 2-chloro-5-dichloromethyl-pyridine and 100 ml of water is heated to reflux. The pH is kept between 4 and 7 by adding a saturated sodium hydrogencarbonate solution dropwise. After 2 hours, the mixture is cooled, extracted using ethyl acetate and the solvent is carefully removed from the organic phase by distillation in a water jet vacuum. 4.6 g (95% of theory) of 6-chloro-nicotinaldehyde of melting point 70° C. are obtained.

reactant | 2-chloro-5-dichloromethyl-pyridine | 0.0356 mol, 7.0 g | ClC1=NC=C(C=C1)C(Cl)Cl | C6H4Cl3N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 100 ml | O | H2O
product | 6-chloro-nicotinaldehyde | 4.6 g, 95% | ClC1=NC=C(C=O)C=C1 | C6H4ClNO
